US08247562B2
N-(2-aminophenyl)-4-[2-({3-[2-(dimethylamino)ethoxy]propyl}amino)pyrimidin-4-yl]benzamide
To a solution of dimethylaminoethoxypropylamine (2.02 mg, 12.5 μmol) in N,N-dimethylacetamide (125 μl), was added a solution of N-(2-aminophenyl)-4-[2-(methylsulfonyl)pyrimidin-4-yl]benzamide (Method 62, 2.2 mg, 5 mop in N,N-dimethylacetamide (100 μl). The reaction mixture was heated to 50° C. and agitated for a period of 16 hours, before being evaporated to dryness to give the title compound; Mass Spectrum: M+H+ 435.

reactant | dimethylaminoethoxypropylamine | 12.5 μmol, 2.02 mg | CN(C)CCOCCCN | C7H18N2O
reactant | N-(2-aminophenyl)-4-[2-(methylsulfonyl)pyrimidin-4-yl]benzamide | NC1=C(C=CC=C1)NC(C1=CC=C(C=C1)C1=NC(=NC=C1)S(=O)(=O)C)=O | C18H16N4O3S
solvent | N,N-dimethylacetamide | 125 μl | CN(C(C)=O)C | C4H9NO
solvent | N,N-dimethylacetamide | 100 μl | CN(C(C)=O)C | C4H9NO
product | N-(2-aminophenyl)-4-[2-({3-[2-(dimethylamino)ethoxy]propyl}amino)pyrimidin-4-yl]benzamide | NC1=C(C=CC=C1)NC(C1=CC=C(C=C1)C1=NC(=NC=C1)NCCCOCCN(C)C)=O | C24H30N6O2
